US07414045B2
Step 1: 1-(Benzyloxy)azepan-2-imine
Tert-butyl-(benzyloxy)-(5-cyanopentyl)-carbamate (synthesized following the procedure described in EXAMPLE 1-Step 1a starting from 6-bromohexanenitrile) was dissolved in a saturated solution of HCl in EtOH and the mixture was stirred for 45 minutes. Nitrogen was bubbled into the solution to remove HCl in excess. The solvent was removed under reduced pressure and the residue, dissolved in 1,4-dioxane, was treated with triethylamine to adjust pH at 10. Ethanol was removed and the title compound containing an excess of triethylammonium chloride and ethyl 6-[(benzyloxy)amino]hexanoate was used without further purification. The analytical sample was purified by preparative RP-HPLC, using water (0.1% TFA) and acetonitrile (0.1% TFA) as eluents (column C18). The pooled product fractions were lyophilized.

reactant | Tert-butyl-(benzyloxy)-(5-cyanopentyl)-carbamate | C(C)(C)(C)OC(N(CCCCCC#N)OCC1=CC=CC=C1)=O | C18H26N2O3
reactant | 6-bromohexanenitrile | BrCCCCCC#N | C6H10BrN
solvent | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 1-(Benzyloxy)azepan-2-imine | C(C1=CC=CC=C1)ON1C(CCCCC1)=N | C13H18N2O
